US07968570B2
3-Methylpyridine-5-boronic acid
To a solution of 5-bromo-3-picoline (0.25 g, 1.45 mmol) in Et2O (5 mL) at −78° C., was added n-butyl lithium (1.6 M in hexanes, 0.92 mL, 1.48 mmol) dropwise. The mixture was stirred at −78° C. for 1 hour and then triisopropyl borate was added quickly. The mixture was stirred at −78° C. for 1 hour and then quenched with water (2 mL). The mixture was warmed up to room temperature overnight. Solvent was removed under reduced pressure to yield a yellow solid (0.25 g).

reactant | 5-bromo-3-picoline | 1.45 mmol, 0.25 g | BrC=1C=C(C=NC1)C | C6H6BrN
reactant | n-butyl lithium | 1.48 mmol, 1.6 M, 0.92 mL | C(CCC)[Li]
reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 3-Methylpyridine-5-boronic acid | 0.25 g | CC=1C=NC=C(C1)B(O)O | C6H8BNO2
